US04014677
A solution of 14.4 g (50 m-moles) of 2-chloro-4-(3-pentylamino)-5-nitro-6-isopropyl-pyrimidine in 50 ml of ether is added dropwise to a suspension of 3.5 g (50 m-moles) of sodium methylmercaptan in 50 ml of dimethyl sulphoxide. The reaction mixture is stirred for 1 hour at 20° C, then poured into 0.5 liter of water and extracted with ether. The ethereal extracts are dried over MgSO4, dried and evaporated to yield 14 g of 2-methylthio-4-(3-pentylamino)-5-nitro-6-isopropyl-pyrimidine as an oil (nD20 : 1.5757).

reactant | 2-chloro-4-(3-pentylamino)-5-nitro-6-isopropyl-pyrimidine | 14.4 g | ClC1=NC(=C(C(=N1)NC(CC)CC)[N+](=O)[O-])C(C)C | C12H19ClN4O2
reactant | sodium methylmercaptan | 3.5 g | CS.[Na]
reactant | water | 0.5 liter | O | H2O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | dimethyl sulphoxide | 50 ml | CS(=O)C | C2H6OS
product | 2-methylthio-4-(3-pentylamino)-5-nitro-6-isopropyl-pyrimidine | 14 g | CSC1=NC(=C(C(=N1)NC(CC)CC)[N+](=O)[O-])C(C)C | C13H22N4O2S
